US07943639B2
1-(4,5-Dichloro-thiophene-2-sulfonyl)-4-piperazin-1-yl-1H-pyrrolo[3,2-c]pyridine hydrochloride
4,5-Dichloro-thiophene-2-sulfonyl chloride (32.4 mg) was added to tert-butyl 4-(1H-pyrrolo[3,2-c]pyridin-4-yl)piperazine-1-carboxylate the title compound (0.3 mg). LC/MS RT: 1.119 (System 10 till 40% MeCN over 1.5 min, ACE C8), Purity. 92%. MS: 418 (M+1).

reactant | 4,5-Dichloro-thiophene-2-sulfonyl chloride | 32.4 mg | ClC=1C=C(SC1Cl)S(=O)(=O)Cl | C4HCl3O2S2
reactant | tert-butyl 4-(1H-pyrrolo[3,2-c]pyridin-4-yl)piperazine-1-carboxylate | N1C=CC=2C(=NC=CC21)N2CCN(CC2)C(=O)OC(C)(C)C | C16H22N4O2
product | 1-(4,5-Dichloro-thiophene-2-sulfonyl)-4-piperazin-1-yl-1H-pyrrolo[3,2-c]pyridine hydrochloride | 0.3 mg | Cl.ClC=1C=C(SC1Cl)S(=O)(=O)N1C=CC=2C(=NC=CC21)N2CCNCC2 | InChI=1S/C15H14Cl2N4O2S2.ClH/c16-11-9-13(24-14(11)17)25(22,23)21-6-2-10-12(21)1-3-19-15(10)20-7-4-18-5-8-20;/h1-3,6,9,18H,4-5,7-8H2;1H
